US07268231B2
To a mixture of 2-tert-butoxycarbonylamino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (53.3 mg, 0.16 mmol), 1,5-naphthyridine-6-carboxaldehyde (31.6 mg, 0.2 mmol) and iPrOH (5.0 mL) in a 25-mL round bottom flask was added piperidine (0.05 mL) and the suspension was then heated under refluxing for 3 hrs to give a suspension. The reaction mixture was cooled to r.t. and the solid was collected by filtration to give (5-[1,5]-naphthyridin-2-ylmethylene-4-oxo-4,5-dihydro-1H-imidazol-2-yl)-carbamic acid tert-butyl ester as a yellow solid, 29.8 mg (54.9%). HR-ES (+) m/e calcd. for C17H17N5O3: (M+H)+ 340.1404. Found: 340.1404.

reactant | 2-tert-butoxycarbonylamino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 0.16 mmol, 53.3 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)NC(=O)OC(C)(C)C | C16H19N3O5
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.2 mmol, 31.6 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | piperidine | 0.05 mL | N1CCCCC1 | C5H11N
solvent | iPrOH | 5.0 mL | CC(C)O | C3H8O
product | (5-[1,5]-naphthyridin-2-ylmethylene-4-oxo-4,5-dihydro-1H-imidazol-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1NC(C(N1)=O)=CC1=NC2=CC=CN=C2C=C1)=O | C17H17N5O3
